US07585875B2
Synthesis of 1-(2-(4-fluorophenyl)-6-(trifluoromethyl)pyrazolo[1,5-a]pyridin-3-yl)-2-methylpropan-1-one
1-(2-(4-fluorophenyl)-6-(trifluoromethyl)pyrazolo[1,5-a]pyridin-3-yl)-2-methylprop-1-enyl isobutyrate. To 2.50 g (8.9 mmol) of 2-(4-fluorophenyl)-6-(trifluoromethyl)pyrazolo[1,5-a]pyridine in 43 ml of isobutyric anhydride was added conc. H2SO4 (5 drops). The mixture was stirred and heated at 142° C. overnight. The mixture was cooled to room temperature and poured into water (120 ml) at 0° C. The solution was then adjusted to pH 10 with 2N NaOH. The aqueous layer was extracted with Et2O (3×100 ml), dried over MgSO4, filtered and concentrated. The crude product was purified by flash column chromatography (3% EtOAc-hexane) to afford 2.54 g (68%) of the title compound) as an orange solid. Compound 1033.

reactant | 1-(2-(4-fluorophenyl)-6-(trifluoromethyl)pyrazolo[1,5-a]pyridin-3-yl)-2-methylprop-1-enyl isobutyrate | C(C(C)C)(=O)OC(=C(C)C)C=1C(=NN2C1C=CC(=C2)C(F)(F)F)C2=CC=C(C=C2)F | C22H20F4N2O2
reactant | 2-(4-fluorophenyl)-6-(trifluoromethyl)pyrazolo[1,5-a]pyridine | 8.9 mmol, 2.50 g | FC1=CC=C(C=C1)C1=NN2C(C=CC(=C2)C(F)(F)F)=C1 | C14H8F4N2
reactant | water | 120 ml | O | H2O
reactant | NaOH | 2N | [OH-].[Na+]
solvent | isobutyric anhydride | 43 ml | C(C(C)C)(=O)OC(C(C)C)=O | C8H14O3
catalyst | H2SO4 | 5 drops | OS(=O)(=O)O | H2O4S
product | 1-(2-(4-fluorophenyl)-6-(trifluoromethyl)pyrazolo[1,5-a]pyridin-3-yl)-2-methylpropan-1-one | 2.54 g, 68% | FC1=CC=C(C=C1)C1=NN2C(C=CC(=C2)C(F)(F)F)=C1C(C(C)C)=O | C18H14F4N2O
